US04876354
39 ml (60.5 mmol) of 1,55 molar n-butyllithium/hexane solution were added dropwise to a solution of 5.17 g (30 mmol) of N-(3-methylbenzyl)-imidazole and 3.49 g (30 mmol) of TMEDA in 60 ml of absolute THF at -70° C. The mixture was stirred for 30 minutes at -70° C., after which a solution of 4.51 g of adamantanone in 35 ml of absolute tetrahydrofuran was added dropwise at about -70° C., stirring was continued for 20 minutes at -70° C., the mixture was allowed to warm up to room temperature, 300 ml of water were added, while cooling, and the mixture was then stirred for 15 minutes at about 5° C. Thereafter, the crystalline substance which had separated out was filtered off with suction, rinsed with water and hexane, dried and boiled up with about 25 ml of CH3CN for 3 minutes. After cooling, the solid was again filtered off under suction and dried. 3.87 g (=40% yield) of pure (2-hydroxy-2-adamantyl)-1-imidazolyl-(3-tolyl)-methane of melting point 186° C. were obtained.

reactant | n-butyllithium hexane | 60.5 mmol, 1,55 molar, 39 ml | C(CCC)[Li].CCCCCC
reactant | N-(3-methylbenzyl)-imidazole | 30 mmol, 5.17 g | CC=1C=C(CN2C=NC=C2)C=CC1 | C11H12N2
reactant | TMEDA | 30 mmol, 3.49 g | CN(C)CCN(C)C | C6H16N2
reactant | adamantanone | 4.51 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | (2-hydroxy-2-adamantyl)-1-imidazolyl-(3-tolyl)-methane | 3.87 g, 40% yield | OC1(C2CC3CC(CC1C3)C2)C(C=2NC=CN2)C=2C=C(C=CC2)C | C21H26N2O
